*TB_SUN_TR_SKY130NM/TB_NCM
*----------------------------------------------------------------
* Include
*----------------------------------------------------------------
#ifdef Lay
.include ../../../work/lpe/CNRG00_QCK_DRTY_TEMP_lpe.spi
#else
.include ../../../work/xsch/CNRG00_QCK_DRTY_TEMP.spice
#endif

*-----------------------------------------------------------------
* OPTIONS
*-----------------------------------------------------------------
.option TNOM=27 GMIN=1e-15 reltol=1e-4

*-----------------------------------------------------------------
* PARAMETERS
*-----------------------------------------------------------------
.param TRF = 10p

.param AVDD = {vdda}

*-----------------------------------------------------------------
* FORCE
*-----------------------------------------------------------------
VSS  VSS  0     dc 0
VDD  VDD_1V8  VSS  pwl 0 0 10n {AVDD}
VPWR  PWRUP_1V8  VSS  pwl 0 0 49n 0 50n {AVDD}

*-----------------------------------------------------------------
* DUT
*-----------------------------------------------------------------
.include ../xdut.spi

*----------------------------------------------------------------
* MEASURES
*----------------------------------------------------------------


*----------------------------------------------------------------
* PROBE
*----------------------------------------------------------------

*.save all
.save i(vdd)
.save v(do_1v8)
.save v(XDUT.VB_FVF) v(XDUT.VDD_ROSC) v(XDUT.VD)

*----------------------------------------------------------------
* NGSPICE control
*----------------------------------------------------------------
.control
set num_threads=8
set color0=white
set color1=black
unset askquit

optran 0 0 0 10n 1u 0



foreach vtemp -40 -20 0 20 40 80 125

  option temp=$vtemp
  tran 1n 100n

  set fend = .raw
  write {cicname}_$vtemp$fend
end



quit


.endc

.end
